US06465453B1
Preparation of 1-(t-Butoxycarbonyl)-4-perhydroazepinone
To an ice bath cooled solution of 4-perhydroazepinone (2 g, 13.4 mmol, prepared following the procedure disclosed in Synthetic Communications, 22(9), 1249-1258 (1992)) was added triethylamine (2.98 g, 4.1 mL, 29.5 mmol). To the cold solution was added di tert-butyl dicarbonate (3.22 g, 14.8 mmol) dissolved in methylene chloride (15 mL) over a one hour period. Stirring was continued at ice bath temperature for one hour and then the temperature was allowed to rise to ambient and stirring was continued overnight. The reaction mixture was then acidified with saturated citric acid solution and the organic layer was washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by column chromatography (a gradient of methylene chloride to 3% methanol/methylene chloride, silica gel) to provide the title compound (2.5 g, 87%).

reactant | 4-perhydroazepinone | N1CCC(CCC1)=O | C6H11NO
reactant | triethylamine | 29.5 mmol, 4.1 mL, 2.98 g | C(C)N(CC)CC | C6H15N
reactant | di tert-butyl dicarbonate | 14.8 mmol, 3.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(t-Butoxycarbonyl)-4-perhydroazepinone | 2.5 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
